US07098333B2
2-chloro-7-(2-fluorobenzyl)-4-(2-furyl)-7H-pyrrol[2,3-d]pyrimidine (Example 10)
A solution of 2-chloro-4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidine (219 mg, 1 mmol) in DMF (2 mL) at 0° C. was treated with NaH (40 mg, 60%, 1 mmol), stirred for 20 min, treated with 2-fluorobenzyl bromide (120 μL, 1 mmol), stirred at room temperature for 1 h, quenched with water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (EtOAc:Heptane, 1:4) to give the title compound (250 mg, 76%) as a cream solid.

reactant | 2-chloro-4-(2-furyl)-1H-pyrrolo[2,3-d]pyrimidine | 1 mmol, 219 mg | ClC1=NC(=C2C(N1)=NC=C2)C=2OC=CC2 | C10H6ClN3O
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
reactant | 2-fluorobenzyl bromide | 1 mmol, 120 μL | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-chloro-7-(2-fluorobenzyl)-4-(2-furyl)-7H-pyrrol[2,3-d]pyrimidine | 250 mg, 76% | ClC=1N=C(C2=C(N1)N(C=C2)CC2=C(C=CC=C2)F)C=2OC=CC2 | C17H11ClFN3O
